US05434263
45.0 g (0.27 mol) of tetraethylammonium chloride and 22.8 g (0.2 mol) of N-ethylpiperidine are added to a suspension of 42.6 g (0.18 mol) of 2,9-diacetylguanine in 450 ml of acetonitrile. 165.3 g (1.08 mol) of phosphorus oxychloride are then metered in at a temperature of 0° C. to 5° C. of the reaction mixture. The mixture is stirred at 25° C. for 20 hours, then introduced into 1.25 l of water such that 15° C. is not exceeded and the pH is at the same time kept between 4.8 and 5.5 using 12% strength ammonia solution. The mixture is stirred at 0° C. to 5° C. for 1 hour at a constant pH of 5, then the product is filtered off, washed with water and dried in vacuo at 50° C. 34.1 g of 2-acetamido-6-chloropurine are obtained. The final product is determined with the aid of HPLC on an RP-18 column in a reaction mixture of water, acetonitrile and acetic acid in the ratio 6:1:0.5.

reactant | N-ethylpiperidine | 0.2 mol, 22.8 g | C(C)N1CCCCC1 | C7H15N
reactant | 2,9-diacetylguanine | 0.18 mol, 42.6 g | CC(=O)NC1=NC(=O)C2=C(N1)N(C=N2)C(=O)C | C9H9N5O3
reactant | phosphorus oxychloride | 1.08 mol, 165.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
catalyst | tetraethylammonium chloride | 0.27 mol, 45.0 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 450 ml | C(C)#N | C2H3N
solvent | water | 1.25 l | O | H2O
product | 2-acetamido-6-chloropurine | 34.1 g | C(C)(=O)NC1=NC(=C2NC=NC2=N1)Cl | C7H6ClN5O
